US08981085B2
4-Chloro-1H-pyrrolo[2,3-b]pyridine (5.0 g, 32.8 mmol) in THF (50 mL) was cooled to 0° C., and NaH (1.64 g, 41.0 mmol, 60% oil dispersion) was added. After 15 minutes, triisopropylsilylchloride (“TIPS-Cl”; 6.94 mL, 32.8 mmol) was added, and the reaction was stirred at room temperature for 1 hour. A saturated ammonium chloride solution (20 mL) was added, and the mixture was extracted with hexanes (40 mL), washed with brine and dried over sodium sulfate. After removal of the solvent, the residue was purified by chromatography (hexanes) to give 4-chloro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine (10.0 g, 99% yield) as an oil.

reactant | 4-Chloro-1H-pyrrolo[2,3-b]pyridine | 32.8 mmol, 5.0 g | ClC1=C2C(=NC=C1)NC=C2 | C7H5ClN2
reactant | NaH | 41.0 mmol, 1.64 g | [H-].[Na+]
reactant | triisopropylsilylchloride | 32.8 mmol, 6.94 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-chloro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 10.0 g, 99% yield | ClC1=C2C(=NC=C1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C16H25ClN2Si
